US05624948
A solution of 5-[2-[4-(2-carboxyethyl)phenyl]ethyl]-1-[1(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane sodium salt (163 mg) in an isopropanol solution saturated with HCl was refluxed for 4 hours. The solvent was removed under reduced pressure, and the residue was dissolved in methylene chloride (20 ml). The solution was washed with a saturated aqueous NaHCO3 solution and brine. The organic layer was dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of methylene chloride, diethyl ether and methanol (1:1:0.25) as eluent to give 1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-5-[2-[4-(2-isopropoxycarbonylethyl)phenyl]ethyl]-1,5-diazacyclooctane (123mg) as a colorless oily liquid.

reactant | 5-[2-[4-(2-carboxyethyl)phenyl]ethyl]-1-[1(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-1,5-diazacyclooctane sodium salt | 163 mg | [Na].C(=O)(O)CCC1=CC=C(C=C1)CCN1CCCN(CCC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2
reactant | HCl | Cl | ClH
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-5-[2-[4-(2-isopropoxycarbonylethyl)phenyl]ethyl]-1,5-diazacyclooctane | 123mg | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCCN(CCC2)CCC2=CC=C(C=C2)CCC(=O)OC(C)C | C34H41FN4O2
